US07687646B2
According to the teachings in EP 0235795, a suspension of 3-bromopropyltriphenylphosphonium bromide (Olo-IM4) in ethanol was reacted with 13.5 equivalents of an aqueous dimethylamine solution (50%) to provide dimethylaminopropyltriphenylphosphonium bromide HBr. After this reaction, the solvent was distilled off and the residue was recrystallized (yield: 59%).

reactant | 3-bromopropyltriphenylphosphonium bromide | [Br-].BrCCC[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | dimethylamine | 13.5 equivalents | CNC | C2H7N
solvent | ethanol | C(C)O | C2H6O
product | dimethylaminopropyltriphenylphosphonium bromide HBr | yield: 59% | Br.[Br-].CN(C)CCC[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | InChI=1S/C23H27NP.2BrH/c1-24(2)19-12-20-25(21-13-6-3-7-14-21,22-15-8-4-9-16-22)23-17-10-5-11-18-23;;/h3-11,13-18H,12,19-20H2,1-2H3;2*1H/q+1;;/p-1
